US07842688B2
d) 9-Hydroxymethyl-1-(2-trimethylsilanylethoxymethyl)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one
A solution of 1.500 g of methyl 2-oxo-1-(trimethylsilanylethoxymethyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepine-9-carboxylate in 35 ml of tetrahydrofuran is admixed with 0.205 g of lithium borohydride. The reaction mixture is stirred at 50° C. over 4 hours and subsequently poured onto 300 ml of a 1:1 mixture of saturated aqueous sodium hydrogencarbonate solution and tert-butyl methyl ether. The phases are separated and the aqueous phase is extracted with 150 ml of tert-butyl methyl ether. The combined organic phases are washed with 150 ml of water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow resin from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (1:1 EtOAc-heptane); Rt=4.38.

reactant | methyl 2-oxo-1-(trimethylsilanylethoxymethyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepine-9-carboxylate | 1.500 g | O=C1CCCC2=C(N1COCC[Si](C)(C)C)C(=CC=C2)C(=O)OC | C18H27NO4Si
reactant | lithium borohydride | 0.205 g | [BH4-].[Li+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 9-Hydroxymethyl-1-(2-trimethylsilanylethoxymethyl)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one | OCC1=CC=CC2=C1N(C(CCC2)=O)COCC[Si](C)(C)C | C17H27NO3Si
